US05606038
ω-methoxyhexaethylene glycol (5 mmol) and 1.85 g (10 mmol) of potassium phthalimidate were mixed with 20 ml of dry N,N-dimethylformamide and stirred for 3 hours at 120° C. under a nitrogen atmosphere. The resulting mixture was then diluted with 50 ml of CH2Cl2 and a white solid that precipitated was removed by filtration and wished with 50 ml of CH2Cl2. The combined organic solutions were washed with 100 ml of 0.1N NaOH and 100 ml of saturated NaCl, and dried over anhydrous Na2SO4. Removal of solvent under reduced pressure afforded 1-phthalimidohexaethylene glycol monomer ether as an oily product, which was used directly without further purification. The crude 1-phthalimidohexaethylene glycol monomethyl ether (ca. 5 mmol) was dissolved in 30 ml of ethanol. After the solution was heated to the reflux temperature, 0.32 ml (10 mmol) of hydrazine was added. The mixture was refluxed for 1.5 hours under a nitrogen atmosphere, cooled to room temperature, and then acidified by the addition of a few drops of 6N HCl to pH 4. The resulting mixture was refluxed for an additional 1.5 hours, cooled to room temperature, ant the phthalhydrazide which precipitated was removed by filtration and washed with 2×15 ml of ethanol. The combined solvent was then evaporated at 40° C. under reduced pressure, and then 40 ml of an ethanol solution of KOH (0.55 g, 10 mmol) was added to the residue. The precipitated potassium tosylate was removed by filtration and washed with ethanol (2×15 ml). Ethanol was then evaporated, and 80 ml of CHCl3 was added to the residue. The precipitated yellowish solid was removed by filtration and washed with CHCl3 (2×20 ml). The combined chloroform solution was then extracted with 0.1N HCl (150 ml) and 100 ml of water. The aqueous solution was then made basic with a 1N NaOH solution (to pH 11), and extracted with methylene chloride (3×100 ml). Removal of solvent under reduced pressure, followed by purification by silica gel column chromatography utilizing CH3OH/NH4OH (30%) (9/1, v/v) afforded a 54% yield of 1-amino-3,6,9,12,15,18-hexaoxanonadecane (i.e., ω-amino-hexaethyleneglycol monomethyl ether).

reactant | 1-phthalimidohexaethylene glycol monomethyl ether | ca. 5 mmol | COC(COCCOCCOCCOCCOCCO)N1C(C=2C(C1=O)=CC=CC2)=O | C21H31NO9
reactant | hydrazine | 10 mmol, 0.32 ml | NN | H4N2
reactant | phthalhydrazide | C(C=1C(C(=O)NN)=CC=CC1)(=O)NN | C8H10N4O2
reactant | KOH | 10 mmol, 0.55 g | [OH-].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | HCl | 6N, a few drops | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-amino-3,6,9,12,15,18-hexaoxanonadecane | 54% yield | NCCOCCOCCOCCOCCOCCOC | C13H29NO6
